US06156700
Preparation of 1-Methyl-3-(3-morpholino-1,2-benzisothiazol-5-yl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A mixture of 3-(3-chloro-1,2-benzisothiazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.300 g), morpholine (2.00 g) and triethylamine (5.00 g) in tetrahydrofuran is refluxed for 18 hours and concentrated in vacuo to obtain a residue. Column chromatography of the residue using silica gel and 25% and 50% ethyl acetate in heptane solutions gives the title product as a yellow solid (0.210 g, mp 200-205° C.).

reactant | 3-(3-chloro-1,2-benzisothiazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.300 g | ClC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C13H7ClF3N3O2S
reactant | morpholine | 2.00 g | N1CCOCC1 | C4H9NO
reactant | triethylamine | 5.00 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | heptane | CCCCCCC | C7H16
product | 1-Methyl-3-(3-morpholino-1,2-benzisothiazol-5-yl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.210 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)N2CCOCC2)C1)=O | C17H15F3N4O3S
